US05686445
N-[4-[(6,7-Dihydro-2-methyl-5H-pyrimido[5,4-d][1]-benzazepin-7-yl)carbonyl]phenyl]-2-methylbenzamide
To a solution of 0.216 mg of 6,7-dihydro-2-methyl-7-(4-aminobenzoyl)-5H-pyrimido[5,4-d][1]benzazepine in 6 ml of methylene chloride under argon is added 100 μl of triethylamine followed by a solution of 94 μl of 2-methylbenzoyl chloride in 1.5 ml of methylene chloride. The reaction mixture is stirred at room temperature for 18 hours, washed with water, saturated NaHCO3 and the separated organic layer treated with activated carbon and filtered through MgSO4. The filtrate is evaporated to a residue which is dissolved in ethyl acetate and evaporated in vacuo to give 300 mg of the desired product as a pale yellow foam. HR FABMS: Exact Mass (M+H):449.1974.

reactant | 6,7-dihydro-2-methyl-7-(4-aminobenzoyl)-5H-pyrimido[5,4-d][1]benzazepine | 0.216 mg | CC=1N=CC=2CCN(C3=C(C2N1)C=CC=C3)C(C3=CC=C(C=C3)N)=O | C20H18N4O
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 94 μl | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,7-Dihydro-2-methyl-5H-pyrimido[5,4-d][1]-benzazepin-7-yl)carbonyl]phenyl]-2-methylbenzamide | 300 mg | CC=1N=CC=2CCN(C3=C(C2N1)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C28H24N4O2
